US04017489
N-(N-ethylbenzylaminothio)-phthalimide (6.24 grams, 20 millimoles) was stirred in 100 milliliters of benzene and 2.2 grams (20 millimoles) of benzenethiol was added. The mixture was refluxed one hour, then cooled to room temperature and filtered to remove phthalimide. The filtrate was washed with 10 percent NaOH, then with water, dried (Na2SO4) and concentrated under reduced pressure to afford 5.2 grams (94.5%) of N-(phenyldithio)-N-ethylbenzylamine as a pale yellow liquid.

reactant | N-(N-ethylbenzylaminothio)-phthalimide | 20 millimoles, 6.24 grams | C(C)N(SN1C(C=2C(C1=O)=CC=CC2)=O)CC2=CC=CC=C2 | C17H16N2O2S
reactant | benzenethiol | 20 millimoles, 2.2 grams | C1(=CC=CC=C1)S | C6H6S
solvent | benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
product | N-(phenyldithio)-N-ethylbenzylamine | 5.2 grams, 94.5% | C1(=CC=CC=C1)SSN(CC)CC1=CC=CC=C1 | C15H17NS2
